US05998433
a) Synthesis of N,N-dimethyl-[6-(2-fluorenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine
To a solution of 0.319 g (2.000 mmol) of 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride, 0.462 g (2.2 mmol) of 2-fluorenecarboxylic acid and 1.1 ml (8.0 mmol) of triethylamine in 30 ml of dichloromethonane, 0.489 g (3.0 mmol) of diethyl cyanophosphonate was added dropwise under ice-cooling, followed by overnight stirring at room temperature. After the solvent was distilled off, water was added, followed by 2 extractions with ethyl acetate. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was dissolved in 10 ml of acetic acid; 0.270 ml (3.00 mmol) of 50% aqueous dimethylamine and 0.245 ml (3.00 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 120 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with 5% aqueous sodium hydrogen carbonate and extracted with ethyl acetate 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate/methanol=5/1) to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | 2.000 mmol, 0.319 g | Cl.O1C=CC2=C1CNCC2
reactant | 2-fluorenecarboxylic acid | 2.2 mmol, 0.462 g | C1=C(C=CC=2C3=CC=CC=C3CC12)C(=O)O | C14H10O2
reactant | triethylamine | 8.0 mmol, 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 3.0 mmol, 0.489 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | dimethylamine | 3.00 mmol, 0.270 ml | CNC | C2H7N
reactant | formaldehyde | 3.00 mmol, 0.245 ml | C=O | CH2O
product | N,N-dimethyl-[6-(2-fluorenecarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC2=C(CN(CC2)C(=O)C2=CC=3CC4=CC=CC=C4C3C=C2)O1 | C24H24N2O2
